US07932399B2
2-(5,6-Dichloro-1H-benzoimidazol-2-yl)-1,1,1-trifluoro-5-phenyl-pent-4-yn-2-ol (#34)
2-(5,6-Dichloro-1H-benzoimidazol-2-yl)-1,1,1-trifluoro-pent-4-yn-2-ol (0.27 g; 0.83 mmol), iodobenzene (0.14 mL; 1.3 mmol), dichlorobis(triphenylphosphine)palladium (31.7 mg; 0.045 mmol), copper iodide (17.8 mg; 0.093 mmol) and triethylamine (0.25 mL; 1.8 mmol) were suspended in THF (5 mL) and the resulting mixture stirred vigorously overnight. The reaction mixture was then concentrated in vacuo and the resulting crude brown oil was purified by column chromatography (SiO2; 50% ether/CH2Cl2) to yield the title compound as an orange-yellow solid.

reactant | 2-(5,6-Dichloro-1H-benzoimidazol-2-yl)-1,1,1-trifluoro-pent-4-yn-2-ol | 0.83 mmol, 0.27 g | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)(CC#C)O)C=C1Cl | C12H7Cl2F3N2O
reactant | iodobenzene | 1.3 mmol, 0.14 mL | IC1=CC=CC=C1 | C6H5I
reactant | triethylamine | 1.8 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | dichlorobis(triphenylphosphine)palladium | 0.045 mmol, 31.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.093 mmol, 17.8 mg | [Cu](I)I
product | 2-(5,6-Dichloro-1H-benzoimidazol-2-yl)-1,1,1-trifluoro-5-phenyl-pent-4-yn-2-ol | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)(CC#CC2=CC=CC=C2)O)C=C1Cl | C18H11Cl2F3N2O
